US06069158
d) Ethyl 2-(ethylamino)-6-pyridylacetate
A solution of ethyl 2-(N-Boc-N-ethylamino)-6-pyridylacetate (1.5 g, 4.87 mmo)l) and 4M HCl/dioxane (5 mL, 20 mol) was stirred at RT overnight, then was concentrated. Reconcentration from toluene gave the title compound as white solid: MS (ES) m/e 209 (M+H)+.

reactant | ethyl 2-(N-Boc-N-ethylamino)-6-pyridylacetate | 1.5 g | C(=O)(OC(C)(C)C)N(CC)C1=NC(=CC=C1)CC(=O)OCC | C16H24N2O4
reactant | HCl dioxane | 20 mol, 4M, 5 mL | Cl.O1CCOCC1
product | Ethyl 2-(ethylamino)-6-pyridylacetate | C(C)NC1=NC(=CC=C1)CC(=O)OCC | C11H16N2O2
